US07375222B2
A 2.59 g portion of 4,6-dichloro-N-(4-fluorophenyl)-1,3,5-triazine was dissolved in 20 ml of acetonitrile, and 2.09 ml of diisopropylethylamine and 1.18 g of p-toluidine were added thereto and stirred overnight at room temperature. The reaction solution was mixed with water and extracted with ethyl acetate, and the organic layer was washed with 1 M hydrochloric acid and saturated brine and then dried using anhydrous magnesium sulfate. The solvent was evaporated under a reduced pressure, the thus obtained residue was applied to a silica gel column chromatography and eluted with ethyl acetate:n-hexane (1:9), and then the thus obtained crude product was crystallized from benzene, thereby obtaining 2.74 g of 6-chloro-N-(4-fluorophenyl)-N′-(4-methylphenyl)-1,3,5-triazine-2,4-diamine as a white solid.

reactant | 4,6-dichloro-N-(4-fluorophenyl)-1,3,5-triazine | ClC1=NCN(C(=N1)Cl)C1=CC=C(C=C1)F | C9H6Cl2FN3
reactant | diisopropylethylamine | 2.09 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-toluidine | 1.18 g | NC1=CC=C(C=C1)C | C7H9N
reactant | water | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 6-chloro-N-(4-fluorophenyl)-N′-(4-methylphenyl)-1,3,5-triazine-2,4-diamine | 2.74 g | ClC1=NC(=NC(=N1)NC1=CC=C(C=C1)F)NC1=CC=C(C=C1)C | C16H13ClFN5
